US04952587
1,1-Dimethyl-4-[3-(methylindol-3-yl)-1,2,4-oxadiazol-5-yl]piperidinium iodide
Methyl iodide (200 mg) was added to a stirred solution of 1-methyl-4-[3-(methylindol-3-yl)-1,2,4-oxadiazol-5-yl]piperidine (300 mg) in anhydrous acetone (20 ml) at room temperature. After stirring at room temperature for two hours the precipitate was isolated by filtration and dried to afford the title compound (300 mg), mp 246° C.; Found C, 49.00; H, 5.30; N, 12.51 C18H23N4OI requires C, 49.32; H, 5.29; N, 12.78%; δH (360 MHz, DMSO) 2.25-2.35 (4H, m, 2×CH2), 3.14 (3H, s, NMe), 3.18 (3H, s, NMe), 3.41 (1H, m, CH), 3.48-3.56 (4H, m, 2×CH2N), 3.90 (3H, s, NMe), 7.22-7.33 (2H, m, H-5, H-6), 7.58 (1H, d, J=7 , H-7), 8.05 (1H, d, J=7, H-4), 8.12 (1H, s, H-2); M/Z (no M+), 199(90), 140(100), 96(90).

reactant | Methyl iodide | 200 mg | CI | CH3I
reactant | 1-methyl-4-[3-(methylindol-3-yl)-1,2,4-oxadiazol-5-yl]piperidine | 300 mg | CN1CCC(CC1)C1=NC(=NO1)C1=C(NC2=CC=CC=C12)C | C17H20N4O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 1,1-Dimethyl-4-[3-(methylindol-3-yl)-1,2,4-oxadiazol-5-yl]piperidinium iodide | 300 mg | [I-].C[N+]1(CCC(CC1)C1=NC(=NO1)C1=C(NC2=CC=CC=C12)C)C | InChI=1S/C18H23N4O.HI/c1-12-16(14-6-4-5-7-15(14)19-12)17-20-18(23-21-17)13-8-10-22(2,3)11-9-13;/h4-7,13,19H,8-11H2,1-3H3;1H/q+1;/p-1
